US07465836B2
1-Bromo-2-(2-(methoxymethoxy)ethyl)benzene: Sodium hydride (60% dispersion in mineral oil, 0.966 g, 24.1 mmol) was placed in a 250 mL round bottom flask under N2. The NaH was washed with dry hexanes (10 mL). The hexanes were removed via cannula, and the process repeated twice (2×10 mL). The NaH was dried under vacuum until a free flowing powder resulted and placed under N2. 2-(2-bromophenyl)ethanol (4.016 g, 20 mmol) was dissolved in 60 mL of dry THF and added dropwise to the solid NaH. Once H2 evolution had ceased, the solution was refluxed for 1 hour. The solution was allowed to cool to room temperature then cooled to 0° C. in an ice bath. Chloromethyl methyl ether (1.52 mL, 20 mmol) was then added and the solution allowed to warm to room temperature. The solution was stirred at room temperature for 18 hours then filtered through a 1.5 cm column of Celite. The Celite was washed with THF (2×15 mL). The THF filtrates were combined and evaporated under vacuum to give pure methoxymethoxy ether as an oil (4.64 g, 95%): 1H NMR δ 3.06 (t, 2H), 3.31 (s, 3H), 3.78 (t, 2H), 4.62 (s, 2H), 7.08 (dt, 1H), 7.26 (m, 2H), 7.54 (dd, 1H).

reactant | 1-Bromo-2-(2-(methoxymethoxy)ethyl)benzene | BrC1=C(C=CC=C1)CCOCOC | C10H13BrO2
reactant | Sodium hydride | 24.1 mmol, 0.966 g | [H-].[Na+]
reactant | 2-(2-bromophenyl)ethanol | 20 mmol, 4.016 g | BrC1=C(C=CC=C1)CCO | C8H9BrO
reactant | Chloromethyl methyl ether | 20 mmol, 1.52 mL | COCCl | C2H5ClO
reactant | THF | 60 mL | C1CCOC1 | C4H8O
product | methoxymethoxy ether | 4.64 g, 95% | COCOOOCOC | C4H10O5
